US09428510B2
3-amino-6-(3,5-difluorobenzylthio)picolinonitrile
A mixture of 3-amino-6-(3,5-difluorobenzylthio)picolinamide (2.37 mmol, 0.7 g) and P2Cl5 (9.48 mmol, 1.346 g), 20 ml of toluene and 1 ml of ionic solvent (1-butyl-3-methylimidazolium tetrafluoroborate) are placed in a microwave reactor and then heated at 140° C. for 30 minutes. The crude reaction product is then concentrated under reduced pressure and the orange crystals thus obtained are redissolved in ethyl acetate and washed using saturated aqueous NaHCO3 solution. The organic phase is dried on magnesium sulfate and then concentrated to yield 0.7 g of a brown oil. This crude reaction product is purified by silica gel chromatography (AcOEt/heptane+0.1% of NEt3) to yield, after concentration, 0.15 g (23%) of orange crystals.

reactant | 3-amino-6-(3,5-difluorobenzylthio)picolinamide | 2.37 mmol, 0.7 g | NC=1C(=NC(=CC1)SCC1=CC(=CC(=C1)F)F)C(=O)N | C13H11F2N3OS
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-amino-6-(3,5-difluorobenzylthio)picolinonitrile | 0.7 g | NC=1C(=NC(=CC1)SCC1=CC(=CC(=C1)F)F)C#N | C13H9F2N3S
